US07291616B2
6-(5-Chloro-2-methyl-phenyl)-N-(4-dimethylaminomethyl-phenyl)-[1,3,5]triazine-2,4-diamine
A pressure bottle was charged with [4-chloro-6-(5-chloro-2-methyl-phenyl)-[1,3,5]-triazin-2-yl]-(4-dimethylaminomethyl-phenyl)-amine (0.305 g, 0.79 mmol) and tetrahydrofuran (20 ml) and cooled to −78° C. A slow stream of ammonia gas was passed into the solution for 2 minutes and the bottle was sealed. After stirring at room temperature for 12 hours, the mixture was concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel eluting with 10% methanol-ethyl acetate to provide the title compound (0.148 g, 49% yield). 1H NMR (CDCl3) δ 7.9 (s, 1H), 7.2-7.6 (m, 6H), 3.25 (d, 6H) 2.5 (s, 3H).

reactant | [4-chloro-6-(5-chloro-2-methyl-phenyl)-[1,3,5]-triazin-2-yl]-(4-dimethylaminomethyl-phenyl)-amine | 0.79 mmol, 0.305 g | ClC1=NC(=NC(=N1)C1=C(C=CC(=C1)Cl)C)NC1=CC=C(C=C1)CN(C)C | C19H19Cl2N5
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 6-(5-Chloro-2-methyl-phenyl)-N-(4-dimethylaminomethyl-phenyl)-[1,3,5]triazine-2,4-diamine | 0.148 g, 49% yield | ClC=1C=CC(=C(C1)C1=NC(=NC(=N1)NC1=CC=C(C=C1)CN(C)C)N)C | C19H21ClN6
